US05273982
512 mg of N-[4-[p-[N-(benzyloxycarbonyl)amidino]benzamido]-butyryl]-β-alanine benzyl ester and 170 mg of Pd/C in 10 ml of acetic acid were stirred under hydrogen. The catalyst was filtered off and the filtrate was evaporated. The residue was dissolved in water and the solution was evaporated. The residue was suspended in water, adjusted to pH 7 using ammonia, filtered with suction, washed with water and dried. 239 mg of N-[4-(p-amidinobenzamido)butyryl]-β-alanine, m.p. >250° C., MS: 321 (12, M+H), were obtained.

reactant | N-[4-[p-[N-(benzyloxycarbonyl)amidino]benzamido]-butyryl]-β-alanine benzyl ester | 512 mg | C(C1=CC=CC=C1)OC(CCNC(CCCNC(C1=CC=C(C=C1)C(NC(=O)OCC1=CC=CC=C1)=N)=O)=O)=O | C30H32N4O6
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 170 mg | [Pd] | Pd
product | N-[4-(p-amidinobenzamido)butyryl]-β-alanine | 239 mg | C(N)(=N)C1=CC=C(C(=O)NCCCC(=O)NCCC(=O)O)C=C1 | C15H20N4O4
